### PR TITLE
feat(tensor_product): tensor product of inner product spaces is an inner product space

### PR DESCRIPTION
**Pull request by jjaassoonn**
This is now a complete proof that tensor product of inner product spaces (possibly infinite dimensional) is another inner product space.

### CODE REVIEW

File: src/to_mathlib/analysis/inner_product_space/tensor_product.lean [hunk 1]
```diff
@@ -10,6 +10,65 @@ open_locale real_inner_product_space tensor_product big_operators
 
 namespace inner_product_space
 
+lemma tensor_sum {α β H I : Type*} {α : Type*}
```
Comment (ocfnash) [inline src/to_mathlib/analysis/inner_product_space/tensor_product.lean]: Mathlib already has this lemma, see https://leanprover-community.github.io/mathlib_docs/linear_algebra/tensor_product.html#tensor_product.sum_tmul

File: src/to_mathlib/analysis/inner_product_space/tensor_product.lean [hunk 2]
```diff
@@ -28,118 +87,12 @@ linear_map.mul' ℝ ℝ ∘ₗ
...
-begin
-  ext m n p q,
-  exact H m n p q,
-end
-
-end some_linear_algebra_from_kevin
-
-/-- We may not actually need this for this project since what we really want is the `instance`
-lower down for the _tensor power_.
+-- instance (k : ℕ) : inner_product_space ℝ (⨂[ℝ]^k E) := sorry
```
Comment (ocfnash) [inline src/to_mathlib/analysis/inner_product_space/tensor_product.lean]: We need to keep this instance for use elsewhere in the project
```suggestion
instance (k : ℕ) : inner_product_space ℝ (⨂[ℝ]^k E) := sorry
```

File: src/to_mathlib/analysis/inner_product_space/tensor_product.lean [hunk 3]
```diff
@@ -28,118 +87,12 @@ linear_map.mul' ℝ ℝ ∘ₗ
...
-  definite := λ x, begin
-    sorry
-  end,
-  add_left := λ x y z, by rw [tensor_product.add_tmul, map_add],
-  smul_left := λ x y r, by rw [is_R_or_C.conj_to_real,
-    ← tensor_product.smul_tmul', map_smul, smul_eq_mul],}
--- omit hE hF
+-- @[simp] lemma inner_tpow {k : ℕ} (e₁ e₂ : fin k → E) :
+--   ⟪tensor_power.tpow ℝ e₁, tensor_power.tpow ℝ e₂⟫ = ∏ i, ⟪e₁ i, e₂ i⟫ :=
+-- sorry
```
Comment (ocfnash) [inline src/to_mathlib/analysis/inner_product_space/tensor_product.lean]: Likewise we need to keep this.
```suggestion
@[simp] lemma inner_tpow {k : ℕ} (e₁ e₂ : fin k → E) :
  ⟪tensor_power.tpow ℝ e₁, tensor_power.tpow ℝ e₂⟫ = ∏ i, ⟪e₁ i, e₂ i⟫ :=
sorry
```

File: src/to_mathlib/analysis/inner_product_space/tensor_product.lean [hunk 4]
```diff
@@ -28,118 +87,12 @@ linear_map.mul' ℝ ℝ ∘ₗ
...
-example (E : Type*) (F : Type*)
-  [inner_product_space ℝ E] [finite_dimensional ℝ E]
-  [inner_product_space ℝ F] [finite_dimensional ℝ F] :
-  ∀ (x : E ⊗[ℝ] F),
-    0 ≤ is_R_or_C.re ((tensor_product_aux E F) (x ⊗ₜ[ℝ] x)) :=
-begin
-  intros x,
-  admit,
-end
+example : true := trivial
```
Comment (ocfnash) [inline src/to_mathlib/analysis/inner_product_space/tensor_product.lean]:
```suggestion
```

File: src/to_mathlib/analysis/inner_product_space/test.lean [hunk 5]
```diff
@@ -0,0 +1,16 @@
+import analysis.inner_product_space.basic
```
Comment (ocfnash) [inline src/to_mathlib/analysis/inner_product_space/test.lean]: Did you intend to keep this file? It looks redundant.

File: src/to_mathlib/analysis/inner_product_space/tensor_product_of_inner_product_finite_dimensional.lean [hunk 6]
```diff
@@ -0,0 +1,412 @@
...
+import analysis.inner_product_space.gram_schmidt_ortho
+import data.fin.basic
+
+noncomputable theory
+
+open_locale real_inner_product_space tensor_product big_operators
+
+namespace inner_product_space
+
+variables (E F : Type*) [linear_order E] [linear_order F]
```
Comment (ocfnash) [inline src/to_mathlib/analysis/inner_product_space/tensor_product_of_inner_product_finite_dimensional.lean]: We definitely don't want these assumptions!
```suggestion
variables (E F : Type*)
```

File: src/to_mathlib/analysis/inner_product_space/tensor_product_of_inner_product_finite_dimensional.lean [hunk 7]
```diff
@@ -0,0 +1,412 @@
...
+variables [inner_product_space ℝ E] [inner_product_space ℝ F]
+
+section finite
+
+variables [finite_dimensional ℝ E] [finite_dimensional ℝ F]
+
+#check basis (fin (finite_dimensional.finrank ℝ E) × fin (finite_dimensional.finrank ℝ F)) ℝ
+ (E ⊗[ℝ] F)
+#check (gram_schmidt_orthonormal_basis ℝ (finite_dimensional.fin_basis ℝ E))
+
```
Comment (ocfnash) [inline src/to_mathlib/analysis/inner_product_space/tensor_product_of_inner_product_finite_dimensional.lean]: This can be dropped:
```suggestion
```

**Review by ocfnash — CHANGES_REQUESTED** [review]
Thanks for sticking with this! I note that `inner_product_space.tensor_product'` is now sorry-free 🎉

In addition to the points that I've raised, please run:
```
leanproject build
```
locally to make sure the project builds (since we do not have continuous integration set up).

File: src/to_mathlib/analysis/inner_product_space/tensor_product_of_inner_product_finite_dimensional.lean (hunk 6 above)
Comment (jjaassoonn) [reply src/to_mathlib/analysis/inner_product_space/tensor_product_of_inner_product_finite_dimensional.lean]: has been removed

File: src/to_mathlib/analysis/inner_product_space/tensor_product_of_inner_product_finite_dimensional.lean (hunk 7 above)
Comment (jjaassoonn) [reply src/to_mathlib/analysis/inner_product_space/tensor_product_of_inner_product_finite_dimensional.lean]: removed

File: src/to_mathlib/analysis/inner_product_space/test.lean (hunk 5 above)
Comment (jjaassoonn) [reply src/to_mathlib/analysis/inner_product_space/test.lean]: removed

File: src/to_mathlib/analysis/inner_product_space/tensor_product.lean (hunk 4 above)
Comment (jjaassoonn) [reply src/to_mathlib/analysis/inner_product_space/tensor_product.lean]: removed

File: src/to_mathlib/analysis/inner_product_space/tensor_product.lean (hunk 3 above)
Comment (jjaassoonn) [reply src/to_mathlib/analysis/inner_product_space/tensor_product.lean]: re-added

File: src/to_mathlib/analysis/inner_product_space/tensor_product.lean (hunk 2 above)
Comment (jjaassoonn) [reply src/to_mathlib/analysis/inner_product_space/tensor_product.lean]: re-added

File: src/to_mathlib/analysis/inner_product_space/tensor_power.lean [hunk 8]
```diff
@@ -0,0 +1,65 @@
...
+  definite := sorry,
+  add_left := sorry,
+  smul_left := sorry }
+
+instance (k : ℕ) : inner_product_space ℝ (⨂[ℝ]^k E) := inner_product_space.of_core
+begin
+  induction k, apply tensor_power0_inner,
+  apply tensor_power_succ_inner, assumption,
+end
+
```
Comment (jjaassoonn) [inline src/to_mathlib/analysis/inner_product_space/tensor_power.lean]: I also added some scaffolding on inner product space structure on tensor power, but I am not sure if this is going to work though.

Another strategy is to mimic the proof in the case of  two, i.e. use something like `canonical_basis_repr` and reduce finite dimensional cases, but it sounds like a lot of work.

File: src/to_mathlib/analysis/inner_product_space/tensor_product.lean (hunk 2 above)
Comment (ocfnash) [reply src/to_mathlib/analysis/inner_product_space/tensor_product.lean]: Given that you have no added this instance elsewhere we should remove this code, not comment it out.

File: src/to_mathlib/analysis/inner_product_space/tensor_product.lean (hunk 3 above)
Comment (ocfnash) [reply src/to_mathlib/analysis/inner_product_space/tensor_product.lean]: As above: we don't want to keep commented-out code, especially code that exists elsewhere.

File: src/to_mathlib/analysis/inner_product_space/tensor_power.lean (hunk 8 above)
Comment (ocfnash) [reply src/to_mathlib/analysis/inner_product_space/tensor_power.lean]: Thanks, the new `tensor_power.lean` file is a good idea but I recommend pairing it back to a minimum since this PR is already very large and the strategy there is not yet proven.

**Comment by ocfnash** [comment]
Thanks for returning to this; did you try running:
```
leanproject build
```
locally to check it builds? It fails for me. Several of the errors can be fixed by adding:
```lean
import to_mathlib.analysis.inner_product_space.tensor_power
```
at the top of `orthogonal_representation.lean` but some remain.

It is essential that you verify things build locally using `leanproject build`.

**Comment by jjaassoonn** [comment]
> Thanks for returning to this; did you try running:
> 
> ```
> leanproject build
> ```
> 
> locally to check it builds? It fails for me. Several of the errors can be fixed by adding:
> 
> ```lean
> import to_mathlib.analysis.inner_product_space.tensor_power
> ```
> 
> at the top of `orthogonal_representation.lean` but some remain.
> 
> It is essential that you verify things build locally using `leanproject build`.

Build errors are fixed in [852e769](https://github.com/ocfnash/lean-shannon-lovasz/pull/1/commits/852e769165d548306cfe30b317bf331fe348ee49). Can you verify that it builds now?

File: src/to_mathlib/analysis/inner_product_space/tensor_power.lean (hunk 8 above)
Comment (jjaassoonn) [reply src/to_mathlib/analysis/inner_product_space/tensor_power.lean]: I have deleted this file and I will work on another branch to verify the idea.

**Comment by ocfnash** [comment]
Great, this builds now 🎉 

We can merge it as soon as [this comment](https://github.com/ocfnash/lean-shannon-lovasz/pull/1#discussion_r985268081) is addressed.

File: src/to_mathlib/analysis/inner_product_space/tensor_product.lean (hunk 1 above)
Comment (jjaassoonn) [reply src/to_mathlib/analysis/inner_product_space/tensor_product.lean]: Fixed in [b2d380d](https://github.com/ocfnash/lean-shannon-lovasz/pull/1/commits/b2d380d9b2d7db79499caaa311e438d6d783aea4).

**Comment by jjaassoonn** [comment]
> Great, this builds now 🎉
> 
> We can merge it as soon as [this comment](https://github.com/ocfnash/lean-shannon-lovasz/pull/1#discussion_r985268081) is addressed.

I have removed the redundant lemma in [b2d380d](https://github.com/ocfnash/lean-shannon-lovasz/pull/1/commits/b2d380d9b2d7db79499caaa311e438d6d783aea4), and I will take the liberty to merge this pull request now.
